US04234594
5-Amino-3-methyl-1-(4-chloro-2-methylphenyl) pyrazole
5-chloro-2-methylphenylhydrazine HCl (80.32 g.) was reacted with 3-amino-2-butene nitrile (32.5 g.) as described in Example XLIII to give 60.5 g. product, mp 86°-87°.

reactant | 5-chloro-2-methylphenylhydrazine HCl | 80.32 g | Cl.ClC=1C=CC(=C(C1)NN)C
reactant | 3-amino-2-butene nitrile | 32.5 g | NC(=CC#N)C | C4H6N2
product | 5-Amino-3-methyl-1-(4-chloro-2-methylphenyl) pyrazole | NC1=CC(=NN1C1=C(C=C(C=C1)Cl)C)C | C11H12ClN3
